US07759470B2
N-{3-[5-Amino-1-(4-hydroxy-5-hydroxymethyl-tetrahydro-furan-2-yl)-1H-indol-3-yl]-propyl}-2,2,2-trifluoro-acetamide
4.0 g (9.3 mmol) 2,2,2-Trifluoro-N-{3-[1-(4-hydroxy-5-hydroxymethyl-tetrahydro-furan-2-yl)-5-nitro-1H-indol-3-yl]-prop-2-ynyl}-acetamide and 650 mg 5% (w/w) palladium on charcoal (Fluka No: 75992) were suspended in 100 ml anhydrous ethanol and placed under argon atmosphere in a flask. The argon was substituted by hydrogen (Whatman hydrogen generator). The hydrogenation was monitored by TLC (Silica Gel Merck F60, developing solvent: toluene/acetic acid ethyl ester/methanol 4:1:1 (v/v/v)) and stopped when the starting material was no longer detectable. The catalyst was removed by filtration and the solvent evaporated to dryness in a vacuum on a rotary evaporator. The product was used without further purification (yield: 3.7 g).

reactant | 2,2,2-Trifluoro-N-{3-[1-(4-hydroxy-5-hydroxymethyl-tetrahydro-furan-2-yl)-5-nitro-1H-indol-3-yl]-prop-2-ynyl}-acetamide | 9.3 mmol, 4.0 g | FC(C(=O)NCC#CC1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C1OC(C(C1)O)CO)(F)F | C18H16F3N3O6
reactant | hydrogen | [H][H] | H2
reactant | toluene acetic acid ethyl ester methanol | C1(=CC=CC=C1)C.C(C)OC(C)=O.CO
catalyst | palladium on charcoal | 650 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-{3-[5-Amino-1-(4-hydroxy-5-hydroxymethyl-tetrahydro-furan-2-yl)-1H-indol-3-yl]-propyl}-2,2,2-trifluoro-acetamide | NC=1C=C2C(=CN(C2=CC1)C1OC(C(C1)O)CO)CCCNC(C(F)(F)F)=O | C18H22F3N3O4
